US08309581B2
4-[3-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid
A solution of 4-[3-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid methyl ester (84 mg, 0.17 mmol) in tetrahydrofuran (20 ml) and water (10 ml) was treated with an aqueous solution of lithium hydroxide monohydrate (36 mg, 0.86 mmol) and stirred at 25° C. for 2 h. The solvent removed in vacuo, the resulting crude material diluted with water (5 ml) and acidified with 2M aqueous hydrochloric acid solution. The aqueous layer was extracted with ethyl acetate, washed with water, brine, dried over sodium sulfate, filtered and evaporated under reduced pressure. The crude product was purified by column chromatography over silica gel (50% ethyl acetate/n-hexane) to afford the final compound as an off-white powder (26%). MS (Turbo Spray): m/z=478.4 (M+H).

reactant | 4-[3-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid methyl ester | 0.17 mmol, 84 mg | COC(C1=CC=C(C=C1)COC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)=O | C28H27F2N3O3
reactant | lithium hydroxide monohydrate | 0.86 mmol, 36 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-[3-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-pyridin-2-yloxymethyl]-benzoic acid | 26% | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC=CC2)OCC2=CC=C(C(=O)O)C=C2 | C27H25F2N3O3
